US04066667
Ethyl 7-[5-(p-fluorophenyl)-2-pentyl]-5-hydroxy-4-methylcoumarin-3-propionate is prepared by reaction of 5-[5-(p-fluorophenyl)-2-pentyl]resorcinol, diethyl α-acetylglutarate, and phosphorus oxychloride according to the method of Example 1.

reactant | 5-[5-(p-fluorophenyl)-2-pentyl]resorcinol | FC1=CC=C(C=C1)CCCC(C)C=1C=C(C=C(O)C1)O | C17H19FO2
reactant | diethyl α-acetylglutarate | C(C)(=O)C(C(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 7-[5-(p-fluorophenyl)-2-pentyl]-5-hydroxy-4-methylcoumarin-3-propionate | FC1=CC=C(C=C1)CCCC(C)C1=CC(=C2C(=C(C(OC2=C1)=O)CCC(=O)OCC)C)O | C26H29FO5
